US04463173
To a solution of 2-fluoro-1-triphenylmethylimidazole (1.31 g.) in THF (22 ml.) at -70° under argon was added t-butyl lithium (4 ml. of a 2M solution in pentane). The red solution was stirred at -70° for 2 hours and then cuprous iodide (0.78 g.) added. The resulting dark red solution was stirred at -70° for 1 hour and then allyl bromide (1.8 ml.) added. The mixture was allowed to warm to ambient temperature over 18 hours and then poured into ether (150 ml.). The mixture was washed with saturated aqueous ammonium chloride (6×50 ml.), then brine (50 ml.), treated with charcoal and dried (MgSO4). The solution was evaporated to give 4-allyl-2-fluoro-1-triphenylmethylimidazole as a pale yellow solid, m.p. 136°-138°.

reactant | 2-fluoro-1-triphenylmethylimidazole | 1.31 g | FC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17FN2
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | allyl bromide | 1.8 ml | C(C=C)Br | C3H5Br
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 4-allyl-2-fluoro-1-triphenylmethylimidazole | C(C=C)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H21FN2
